US08236826B2
Production of N-(6-{4-[4-(2-oxo-1,2,3,4-tetrahydro-quinoline-6-ylmethyl)piperazine-1-carbonyl]phenoxy}-pyridin-3-yl)-4-trifluoromethylbenzamide
To a solution of 4-[5-(4-trifluoromethylbenzoylamino)pyridin-2-yloxy]benzoic acid (4.30 g, 10.7 mmol) in DMF (150 mL) were added 1-(2-oxo-1,2,3,4-tetrahydroquinoline-6-ylmethyl)-piperazine (2.6 g, 10.7 mmol), 1-hydroxybenzotriazole monohydrate (1.64 g, 10.7 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.46 g, 12.8 mmol) under ice cooling, and the resulting solution was stirred for 1 hour under ice cooling and for 17 hours at room temperature. This reaction solution was concentrated under reduced pressure. To the residue was added a saturated sodium bicarbonate solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was recrystallized from ethyl acetate, to thereby yield 5.24 g of the title compound.

reactant | 4-[5-(4-trifluoromethylbenzoylamino)pyridin-2-yloxy]benzoic acid | 10.7 mmol, 4.30 g | FC(C1=CC=C(C(=O)NC=2C=CC(=NC2)OC2=CC=C(C(=O)O)C=C2)C=C1)(F)F | C20H13F3N2O4
reactant | 1-(2-oxo-1,2,3,4-tetrahydroquinoline-6-ylmethyl)-piperazine | 10.7 mmol, 2.6 g | O=C1NC2=CC=C(C=C2CC1)CN1CCNCC1 | C14H19N3O
reactant | 1-hydroxybenzotriazole monohydrate | 10.7 mmol, 1.64 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 12.8 mmol, 2.46 g | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | N-(6-{4-[4-(2-oxo-1,2,3,4-tetrahydro-quinoline-6-ylmethyl)piperazine-1-carbonyl]phenoxy}-pyridin-3-yl)-4-trifluoromethylbenzamide | O=C1NC2=CC=C(C=C2CC1)CN1CCN(CC1)C(=O)C1=CC=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C34H30F3N5O4
